US06369057B1
7-Phenoxysulfonyl-3,3a-dihydropyrrolo[1,2-a]quinoxaline-1,4(2H,5H)-dione
The compound was obtained in analogous manner by reacting phenyl 4-chloro-3-nitrobenzenesulfonate with L-glutamic acid, melting point 140° C. (decomp.).

reactant | phenyl 4-chloro-3-nitrobenzenesulfonate | ClC1=C(C=C(C=C1)S(=O)(=O)OC1=CC=CC=C1)[N+](=O)[O-] | C12H8ClNO5S
reactant | L-glutamic acid | N[C@@H](CCC(=O)O)C(=O)O | C5H9NO4
product | 7-Phenoxysulfonyl-3,3a-dihydropyrrolo[1,2-a]quinoxaline-1,4(2H,5H)-dione | O(C1=CC=CC=C1)S(=O)(=O)C=1C=C2NC(C3N(C2=CC1)C(CC3)=O)=O | C17H14N2O5S
